US09359484B2
To a round-bottomed flask, allyl 2-bromo-2-methylpropionate (2.5 mL) was mixed with dry toluene (30 mL) under nitrogen flow. Chlorodimethylsilane (12.2 mL) was added dropwise to the flask and subsequently Platinum(0)-1,3-divinyl-1,1,3,3-tetramethyldisiloxane complex (solution in xylene, Pt˜2%, 0.3 mL). The mixture was stirred under nitrogen for 3 days, after which the mixture was stripped under vacuum to remove toluene and unreacted chlorodimethylsilane. The product, 1-(chlorodimethylsilyl)propyl 2-bromoisobutyrate, was obtained as a yellow oil. 1.6 mL of this oil was then added via syringe to a silica/MEK (Methyl Ethyl Ketone) suspension (Nissan, 30 wt % suspended in MEK, particle size of SiO2˜15-20 nm, 13 g) in a round-bottomed flask under nitrogen flow. The mixture was stirred for 24 hours at 50° C., after which the mixture was cooled down and hexamethyldisilazane (1.5 mL) was added. The mixture was stirred at room temperature for 3 hours and heated to 40° C. for overnight, after which the mixture was cooled down. The precipitate was removed by centrifugation (5000 rpm for 0.5 hours), and the supernatant was added dropwise into hexane to precipitate colloids. The particles were washed with hexanes for several times and dried under vacuum. Solution NMR of the silica-bound initiator (Br-silica) showed no peaks for 1-(chlorodimethylsilyl)propyl 2-bromoisobutyrate or allyl 2-bromo-2-methylpropionate indicating that all free initiator was gone.

reactant | allyl 2-bromo-2-methylpropionate | 2.5 mL | BrC(C(=O)OCC=C)(C)C | C7H11BrO2
reactant | Chlorodimethylsilane | 12.2 mL | Cl[SiH](C)C | C2H7ClSi
catalyst | Platinum(0)-1,3-divinyl-1,1,3,3-tetramethyldisiloxane | 0.3 mL | C(=C)[Si](O[Si](C)(C)C=C)(C)C.[Pt]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(chlorodimethylsilyl)propyl 2-bromoisobutyrate | BrC(C(=O)OC(CC)[Si](C)(C)Cl)(C)C | C9H18BrClO2Si
